US09062041B2
Tert-butyl 3-[(5-bromo-4-methyl-2H-indazol-2-yl)methyl]-azetidin-1-carboxylate
To a solution of 21.1 g of 5-bromo-4-methyl-1H-indazole and 37.6 g of tert-butyl-3-[(tosyloxy)-methyl]azetidin-1-carboxylate in 100 ml dioxan were added 150 ml of a 1M solution of sodium bis(trimethylsilyl)amide in tetrahydrofuran at 25° C. and this was stirred for 6 hrs at 90° C. After cooling, the reaction mixture was treated with ethyl acetate and water, the organic phases separated and the aqueous phase extracted twice with 100 ml portions of ethyl acetate. The combined organic phases were washed with saturated sodium chloride solution, dried over sodium sulphate, and concentrated in vacuo after filtration.

reactant | 5-bromo-4-methyl-1H-indazole | 21.1 g | BrC=1C(=C2C=NNC2=CC1)C | C8H7BrN2
reactant | tert-butyl-3-[(tosyloxy)-methyl]azetidin-1-carboxylate | 37.6 g | C(C)(C)(C)OC(=O)N1CC(C1)COS(=O)(=O)C1=CC=C(C)C=C1 | C16H23NO5S
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Tert-butyl 3-[(5-bromo-4-methyl-2H-indazol-2-yl)methyl]-azetidin-1-carboxylate | BrC1=C(C2=CN(N=C2C=C1)CC1CN(C1)C(=O)OC(C)(C)C)C | C17H22BrN3O2
